US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[2-(3-{[(3S)-3-methyl-1-piperazinyl]methyl}phenyl)-4-pyridinyl]methyl}-1,3-benzenedicarboxamide
To 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (30 mg, 0.066 mmol) was added 1,1-dimethylethyl (2S)-4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (26.3 mg, 0.066 mmol) followed by HBTU (30.2 mg, 0.080 mmol) and TEA (18.52 μl, 0.133 mmol) in dichloromethane (DCM) (664 μl) to give a reaction mixture that was stirred at room temperature overnight. Then the reaction was quenched by H2O (1 drop) and the solvent was removed by Glas-Col. The crude product was redissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic conditions), concentrated by GeneVav EZ-2 evaporator. To this product was added TFA (102 μl, 1.329 mmol) in dichloromethane (0.2 mL) then stirred at room temperature overnight. The reaction mixture was dissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic conditions), concentrated by GeneVav EZ-2 evaporator and basified with an amine cartridge to afford 16.6 mg (33%) of the title compound. LC-MS m/z 730 (M+H)+.

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 0.066 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | 1,1-dimethylethyl (2S)-4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.066 mmol, 26.3 mg | NCC1=CC(=NC=C1)C=1C=C(C=CC1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C23H32N4O2
reactant | HBTU | 0.080 mmol, 30.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | TFA | 1.329 mmol, 102 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 664 μl | ClCCl | CH2Cl2
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
solvent | MeOH DMSO | CO.CS(=O)C
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[2-(3-{[(3S)-3-methyl-1-piperazinyl]methyl}phenyl)-4-pyridinyl]methyl}-1,3-benzenedicarboxamide | 16.6 mg, 33% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC2=CC(=NC=C2)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C42H51N9O3
